US06399629B1
(A) N-tert-Butoxycarbonyl-D-Homophenylalanine 3-Quinolylamide
Bis(2-oxo-3-oxazolidinyl)phosphinic chloride (829 mg) and N,N-diisopropylethylamine (1.13 mL) were added to a solution of 3-aminoquinoline (391 mg) and N-tert-butoxycarbonyl-D-homophenylalanine (1.13 g) in dichloromethane (15 mL) at 0° C. After stirring at 0° C. for 10 min and at room temperature for 19 hr, the solvent was removed in vacuo. The residue was diluted with 10% citric acid and extracted with ethyl acetate. The organic layer was washed with water, saturated sodium hydrogen carbonate, and brine, dried over anhydrous sodium sulfate, and evaporated in vacuo. The residue was purified by silica gel column chromatography (chloroform then chloroform: methanol=50:1, v/v) to afford the title compound (813 mg) as a pale yellow oil: 1H NMR (400 MHz, CDCl3) δ 1.49 (s, 9H), 2.00-2.10 (m, 1H), 2.27-2.39 (m, 1H), 2.80 (t, J=7.8 Hz, 2H), 4.20-4.29 (m, 1H), 4.98-5.07 (m, 1H), 7.19-7.33 (m, 5H), 7.51-7.55 (m, 1H), 7.62 (t, J=7.8 Hz, 1H), 7.78 (d, J=8.4 Hz, 1H), 8.02 (d, J=8.8 Hz, 1H), and 8.68-8.80 (m, 3H).

reactant | Bis(2-oxo-3-oxazolidinyl)phosphinic chloride | 829 mg | O=C1OCCN1P(=O)(N1C(OCC1)=O)Cl | C6H8ClN2O5P
reactant | N,N-diisopropylethylamine | 1.13 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3-aminoquinoline | 391 mg | NC=1C=NC2=CC=CC=C2C1 | C9H8N2
reactant | N-tert-butoxycarbonyl-D-homophenylalanine | 1.13 g | C(C)(C)(C)OC(=O)N[C@H](CCC1=CC=CC=C1)C(=O)O | C15H21NO4
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | N-tert-Butoxycarbonyl-D-Homophenylalanine 3-Quinolylamide | 813 mg | N1=CC(=CC2=CC=CC=C12)NC([C@H](NC(=O)OC(C)(C)C)CCC1=CC=CC=C1)=O | C24H27N3O3
